US07625888B2
Step B: tert-Butyl{(1R)-1-(2,4,5-trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4′,3′:1,2]pyrido[3,4-d]pyrimidin-3-yl]ethyl}carbamate
A mixture of 63 mg (0.115 mmol) of tert-butyl((1R)-3-oxo-1-(2,4,5-trifluorobenzyl)-3-{2-[2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidin-8-yl]hydrazino}propyl)carbamate and 2 mL of 2-methoxyethanol was stirred at reflux for 5.5 h and then concentrated. Purification of the residue by preparative HPLC (C18 reverse phase column, 30-80% acetonitrile in water containing 0.05% trifluoroacetic acid) afforded the title compound as a white solid. LC-MS 529 (M+1).

reactant | tert-butyl((1R)-3-oxo-1-(2,4,5-trifluorobenzyl)-3-{2-[2-(trifluoromethyl)-5,6-dihydropyrido[3,4-d]pyrimidin-8-yl]hydrazino}propyl)carbamate | 0.115 mmol, 63 mg | C(C)(C)(C)OC(N[C@@H](CC(NNC1=NCCC2=C1N=C(N=C2)C(F)(F)F)=O)CC2=C(C=C(C(=C2)F)F)F)=O | C23H24F6N6O3
solvent | 2-methoxyethanol | 2 mL | COCCO | C3H8O2
product | tert-Butyl{(1R)-1-(2,4,5-trifluorobenzyl)-2-[9-(trifluoromethyl)-5,6-dihydro[1,2,4]triazolo[4′,3′:1,2]pyrido[3,4-d]pyrimidin-3-yl]ethyl}carbamate | C(C)(C)(C)OC(N[C@@H](CC1=NN=C2N1CCC=1C2=NC(=NC1)C(F)(F)F)CC1=C(C=C(C(=C1)F)F)F)=O | C23H22F6N6O2
